US06187905B1
80 mg (0.074 mmol) of 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-αaspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2-oxovaleramide were dissolved in 3 ml of trifluoroacetic acid and the solution was stirred at room temperature for 30 minutes. The solution was then diluted with 10 ml of toluene and the solvent was removed by evaporation. The residue was purified by reverse-phase high-pressure liquid chromatography on a Dynamax C18 column (5 micron, 300A, 21.4×50 mm). The elution gradient comprised 90% SSA 10% SSB to 95% SSB 5% SSA over 8.5 minutes (SSA is 0.1% trifluoroacetic acid in water; SSB is 0.1% trifluoroacetic acid in 70% acetonitrile and 30% water). After lyophilization overnight there were obtained 12 mg of 3(R or S)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2-oxo-valeramide (diastereoisomer A); MS: m/e 916.3 [M+H]+, which was eluted first, and 8 mg of 3(R or S)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2-oxo-valeramide (diastereoisomer B); MS: m/e 916.2 [M+H]+, which was eluted subsequently.

reactant | 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-αaspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2-oxovaleramide | 0.074 mmol, 80 mg | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C(C(=O)N)=O)CC(F)(F)F | C52H80F3N7O14
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | [[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2-oxo-valeramide | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C(C(=O)N)=O)CC(F)(F)F | C40H56F3N7O14
